US09371320B2
A) 3-iodo-2-methoxyisonicotinic acid
To a 28% methanol solution (5 g) of sodium methoxide was added 2-bromo-3-iodoisonicotinic acid (880 mg), and the mixture was stirred at 80° C. for 2 hr. To the reaction mixture was added 1N hydrochloric acid under ice-cooling, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give the title compound (780 mg).

reactant | sodium methoxide | C[O-].[Na+]
reactant | 2-bromo-3-iodoisonicotinic acid | 880 mg | BrC=1C(=C(C(=O)O)C=CN1)I | C6H3BrINO2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 5 g | CO | CH4O
product | 3-iodo-2-methoxyisonicotinic acid | 780 mg | IC1=C(C(=O)O)C=CN=C1OC | C7H6INO3
